US07863298B2
Preparation of 4-(4-{1-[4-(tert-butyl-dimethylsiloxy)-3-methylphenyl]-1-ethylpropyl}-2-methylphenyl)-2-methylbut-3-yn-2-ol
To an oven-dried, argon-sparged flask was added Pd[PPh3]4 (46 mg) and anhyd Cul (15 mg). To the flask under argon was added a solution of trifluoromethanesulfonic acid 4-{1-[4-(tert-butyl-dimethylsiloxy)-3-methylphenyl]-1-ethyl-propyl}-2-methylphenyl ester (0.42 g, 0.80 mmol) in anhyd DMF (2.5 mL), TEA (0.56 mL, 4.0 mmol) and 2-methyl-3-butyn-2-ol (0.12 mL, 1.2 mmol). After heating at 65° C. for 15 h, the reaction mixture was diluted with Et2O (50 mL), washed with H2O (2×30 mL) and brine, then dried (Na2SO4) and concentrated under reduced pressure. The crude material was chromatographed (silica, EtOAc/Hex, 0:100 to 10:90) to afford the title compound (0.12 g, 32%) as an orange oil. 1H-NMR (CDCl3) δ 7.26 (1.4H, d, J=8.1), 7.01 (1H, d, J=1.8), 6.94 (1H, dd, J=1.8, 8.1), 6.85 (1H, d, J=2.3), 6.80 (1H, dd, J=2.3, 8.3), 6.63 (1H, d, J=8.3), 2.36 (3H, s), 2.14 (3H, s), 2.03 (4H, q, J=7.3), 1.63 (6H, s), 1.01 (9H, s), 0.59 (6H, t, J=7.3), 0.20 (6H, s); Rf=0.10 (silica, 1:9 EtOAct/Hx).

reactant | trifluoromethanesulfonic acid 4-{1-[4-(tert-butyl-dimethylsiloxy)-3-methylphenyl]-1-ethyl-propyl}-2-methylphenyl ester | 0.80 mmol, 0.42 g | O([Si](C)(C)C(C)(C)C)C1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)C)C | C26H37F3O4SSi
reactant | DMF | 2.5 mL | CN(C)C=O | C3H7NO
reactant | 2-methyl-3-butyn-2-ol | 1.2 mmol, 0.12 mL | CC(C)(C#C)O | C5H8O
solvent | Et2O | 50 mL | CCOCC | C4H10O
product | 4-(4-{1-[4-(tert-butyl-dimethylsiloxy)-3-methylphenyl]-1-ethylpropyl}-2-methylphenyl)-2-methylbut-3-yn-2-ol | 0.12 g, 32% | O([Si](C)(C)C(C)(C)C)C1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(C=C1)C#CC(C)(O)C)C)C | C30H44O2Si
